US07723369B2
5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (59 mg, 0.1 mmol) was treated as described in general procedure G using 4-(3-ethyl-cyclobutyl)phenylboronic acid (41 mg, 0.2 mmol, prepared according to general procedure Y using 3-(4-bromophenyl)cyclobutan-1-one in stead of bromobenzaldehyde) to give 5-(4-{4-(2,4-dichloro-phenyl)-2-[4′-(3-ethyl-cyclobutyl)-biphenyl-4-ylmethyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 59 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 4-(3-ethyl-cyclobutyl)phenylboronic acid | C(C)C1CC(C1)C1=CC=C(C=C1)B(O)O | C12H17BO2
reactant | 3-(4-bromophenyl)cyclobutan-1-one | BrC1=CC=C(C=C1)C1CC(C1)=O | C10H9BrO
reactant | bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
product | 5-(4-{4-(2,4-dichloro-phenyl)-2-[4′-(3-ethyl-cyclobutyl)-biphenyl-4-ylmethyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1CC(C1)CC | C36H32Cl2N4O3S
